### ISSUE TITLE
simpNF complains if LHS contains higher-order function

### ISSUE THREAD

**Issue by timotree3** [leanprover/std4#671]
The `simpNF` linter complains that my lemma doesn't simplify its own left-hand side, but when I test it, it does. The necessary condition to trigger this bug seems to be that the left-hand side contains a higher-order function (in the example, `MyPred`) applied to a nontrivial expression of function type (in the example, `f ()`)

MWE:

```lean
import Std

def MyPred (_ : Nat → Nat) : Prop := True

@[simp] theorem bad1 (f : Unit → Nat → Nat) : MyPred (f ()) ↔ True := by
  rw [MyPred]

@[simp] theorem bad2 (f g : Nat → Nat) : MyPred (fun x ↦ f (g x)) ↔ True := by
  rw [MyPred]

#lint only simpNF -- "Left-hand side does not simplify, when using the simp lemma on itself"

-- Meanwhile, the left-hand sides *do* simplify when using the lemmas on themselves...
example (f : Unit → Nat → Nat) : MyPred (f ()) ↔ True := by
  conv =>
    lhs
    simp only [bad1] -- Works fine

example (f g : Nat → Nat) : MyPred (fun x ↦ f (g x)) ↔ True := by
  conv =>
    lhs
    simp only [bad2] -- Works fine
```
